US07786108B2
Step 5. Preparation of (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
To a solution of (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (87 mg, 0.139 mmol), methanol (0.564 mL, 13.9 mmol), triphenyl phosphine (73 mg, 0.278 mmol) in dry dichloromethane (3.4 mL) at 0° C., under nitrogen, add diethyl azodicarboxylate (0.128 mL, 0.278 mmol). Stir the reaction mixture at room temperature for 3 h. Remove the solvents under reduced pressure and purify the residue by flash chromatography, eluting with hexanes/ethyl acetate to afford the title compound (47 mg, 53%). MS (ES+): 639 (M+H).

reactant | (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.139 mmol, 87 mg | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C(=C(C=C3)C(F)(F)F)C)C3=NN=NN3)C=C(C1)C(F)(F)F)(F)F | C26H25F9N6O2
reactant | methanol | 13.9 mmol, 0.564 mL | CO | CH4O
reactant | triphenyl phosphine | 0.278 mmol, 73 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.278 mmol, 0.128 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 3.4 mL | ClCCl | CH2Cl2
product | (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 47 mg, 53% | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C(=C(C=C3)C(F)(F)F)C)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C27H27F9N6O2
